US05338726
(S)-2 -[(tert-Butyloxycarbonyl)amino]-3,3-dimethylbutanoic acid
To L-t-Butylglycine (1.00 g, 7.6 mmol) dissolved in 1N NaOH (9.5 mL) and THF (8 mL) was added di-t-butyldicarbonate (1.67 g, 7.6 mmol) in THF (1.5 mL). The reaction mixture was stirred overnight at room temperature and extracted with hexanes (3×). The combined organic extracts were washed with saturated NaHCO3 (2×). The combined aqueous layers were adjusted to pH 2 with 1.1N NaHSO4 and back-extracted with Et2O (3×). The combined organic extracts were washed with brine, dried (Na2SO4), and concentrated in vacuo to give the title compound as an oil (1.70 g) which solidified on standing.

reactant | L-t-Butylglycine | 7.6 mmol, 1.00 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | di-t-butyldicarbonate | 7.6 mmol, 1.67 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1N, 9.5 mL | [OH-].[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (S)-2 -[(tert-Butyloxycarbonyl)amino]-3,3-dimethylbutanoic acid | 1.70 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C11H21NO4
